US09359362B2
(rac)-4-(4-Cyanophenyl)-6-methyl-2-thioxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydropyrimidine-5-carbonitrile
Under an atmosphere of argon, triethyl phosphate (12.4 ml, 73.24 mmol, 8 eq.) was stirred together with diphosphorus pentoxide (6.94 g, 48.86 mmol, 5.4 eq.) at 50° C. for 4 h. Abs. THF (60 ml), 3-(trifluoromethyl)phenylthiourea (2.0 g, 9.08 mmol), 4-cyanobenzaldehyde (2.0 g, 15.26 mmol, 1.7 eq.) and acetamide (1.54 g, 15.26 mmol, 1.7 eq.) were then added, and the mixture was heated under reflux for 12 h. The reaction mixture was then concentrated under reduced pressure and the residue was directly purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water). After lyophilization, the title compound was obtained as a solid (680 mg, 18% of theory).

reactant | triethyl phosphate | 73.24 mmol, 12.4 ml, 8 eq. | P(=O)(OCC)(OCC)OCC | C6H15O4P
reactant | diphosphorus pentoxide | 48.86 mmol, 6.94 g, 5.4 eq. | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 3-(trifluoromethyl)phenylthiourea | 9.08 mmol, 2.0 g | FC(C=1C=C(C=CC1)NC(=S)N)(F)F | C8H7F3N2S
reactant | 4-cyanobenzaldehyde | 15.26 mmol, 2.0 g, 1.7 eq. | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | acetamide | 15.26 mmol, 1.54 g, 1.7 eq. | C(C)(=O)N | C2H5NO
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | (rac)-4-(4-Cyanophenyl)-6-methyl-2-thioxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydropyrimidine-5-carbonitrile | C(#N)C1=CC=C(C=C1)C1NC(N(C(=C1C#N)C)C1=CC(=CC=C1)C(F)(F)F)=S | C20H13F3N4S
